US08669254B2
5-(4-Chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridazine-3-carboxylic acid {(R)-2-[(E)-methoxyimino]-cyclohexyl}-amide
To a solution of 100 mg of 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridazine-3-carboxylic acid ((R)-2-oxo-cyclohexyl)-amide in 0.5 ml methanol and 0.5 ml water, was added 98 mg O-methylhydroxylamine hydrochloride and the mixture was stirred at ambient temperature for 3.5 h. The solvents were evaporated and the residue was purified by chromatography on silica gel using a gradient of heptane:ethyl acetate=95:5 to 50:50 to yield 91 mg of the title compound as white foam. MS (EI): 457.3 (M+H).

reactant | 5-(4-chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridazine-3-carboxylic acid ((R)-2-oxo-cyclohexyl)-amide | 100 mg | O=C1[C@@H](CCCC1)NC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)Cl)OCC(F)(F)F | C19H17ClF3N3O3
reactant | O-methylhydroxylamine hydrochloride | 98 mg | Cl.CON
solvent | methanol | 0.5 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
product | 5-(4-Chloro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-pyridazine-3-carboxylic acid {(R)-2-[(E)-methoxyimino]-cyclohexyl}-amide | 91 mg | CO\N=C/1\[C@@H](CCCC1)NC(=O)C=1N=NC(=C(C1)C1=CC=C(C=C1)Cl)OCC(F)(F)F | C20H20ClF3N4O3
